Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins / erythromycin base / Cipro / Iodinated Contrast 
Media - IV Dye / clindamycin / tetracycline / Sulfa (Sulfonamide 
Antibiotics) / Lipitor / lisinopril / epinephrine
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion

 
Major Surgical or Invasive Procedure:
___   Aortic valve replacement with a 23 mm ___  
___ Biocor Epic Supra valve.

 
History of Present Illness:
Mrs. ___ is a ___ year old woman with a history of bicuspid
aortic valve and aortic stenosis followed by serial
echocardiograms. An echocardiogram in ___ revealed severe
aortic stenosis with peak and mean gradients of 78 mmHg and 41
mmHg, respectively. The aortic valve area was 0.7 cm2. A stress
test noted ischemia and she was referred on for a cardiac
catheterization which demonstrated no significant coronary 
artery
disease. She was referred to Dr. ___ surgical
consultation. She presented for preadmission testing and
evaluation.

Since her last office visit, she has stated that she is more
aware of her symptoms though she has noted no change in her
symptoms. She continues to have dyspnea on exertion with walking
up an incline. She also noted occasional palpitations. She had
recent GI symptoms of abdominal cramping and diarrhea which
resolved after about 36 hours. She is also getting over a upper
respiratory infection associated with cough. She denied fever or
chills. She denied fatigue, syncope, presyncope, dizziness,
lightheadedness, shortness of breath at rest, chest
pain/pressure, orthopnea, paroxysmal nocturnal dyspnea, or lower
extremity edema.

 
Past Medical History:
Aortic Stenosis
Bicuspid Aortic Valve
Breast Cancer status post Lumpectomy, Chemotherapy and Radiation
Colon Polyps
Hyperlipidemia
Hypertension
Irritable Bowel Syndrome
Osteoarthritis
Dental implants
 
Social History:
___
Family History:
Maternal Grandfather - died of myocardial infarction at age ___
Maternal Uncle - died of myocardial infarction at age ___
Maternal Uncle - died of an aneurysm at age ___
Mother - died of myocardial infarction at age ___
Daughter - history of Long QT syndrome, age ___

 
Physical Exam:
BP: 156/100. Heart Rate: 93. Resp. Rate: 16. O2 Saturation%: 99.
Height: 62"  Weight: 174 lbs

General: Pleasant woman, WDWN, NAD
Skin: Warm, dry, intact
HEENT: NCAT, PERRLA, EOMI, OP benign, teeth in good repair
Neck:  Supple, full ROM, no JVD
Chest: Lungs clear bilaterally 
Heart: Regular rate and rhythm, III/VI SEM heard best at LUSB
Abdomen: Normal BS, soft, non-tender, non-distended 
Extremities: Warm, well-perfused, no edema
Varicosities: bilateral
Neuro: Grossly intact 
Pulses:
Femoral      Right: 1+  Left: 1+
DP           Right: 1+  Left: 1+
___           Right: 1+  Left: 1+
Radial       Right: 1+  Left: 1+

Carotid Bruit: transmitted murmur
 
Pertinent Results:
Admission Labs
___ 10:30AM BLOOD WBC-18.0*# RBC-3.19*# Hgb-9.4*# 
Hct-28.7*# MCV-90 MCH-29.5 MCHC-32.8 RDW-13.3 RDWSD-43.7 Plt 
___
___ 10:30AM BLOOD ___ PTT-36.0 ___
___ 11:56AM BLOOD UreaN-9 Creat-0.5 Na-140 K-3.5 Cl-106 
HCO3-21* AnGap-17
___ 06:21PM BLOOD Mg-2.0

Discharge labs 
___ 06:15AM BLOOD WBC-11.5* RBC-2.97* Hgb-9.0* Hct-27.0* 
MCV-91 MCH-30.3 MCHC-33.3 RDW-14.0 RDWSD-46.0 Plt ___
___ 07:05AM BLOOD Glucose-162* UreaN-11 Creat-0.6 Na-141 
K-3.8 Cl-99 HCO3-28 AnGap-18
___ 07:05AM BLOOD Calcium-8.9 Phos-3.4 Mg-2.0

CXR ___
In comparison with the study of ___, the right IJ sheath 
has been 
removed.  No change in the cardiomediastinal silhouette and no 
evidence of 
pulmonary edema.  Persistent bilateral pleural effusions with 
compressive 
basilar atelectasis, more prominent on the left

Echocardiogram 
Left Atrium - Long Axis Dimension:   *4.5 cm   <= 4.0 cm   
Left Atrium - Four Chamber Length:   4.5 cm   <= 5.2 cm   
Left Ventricle - Septal Wall Thickness:   1.1 cm   0.6 - 1.1 cm  
 
Left Ventricle - Inferolateral Thickness:   1.1 cm   0.6 - 1.1 
cm   
Left Ventricle - Diastolic Dimension:   4.2 cm   <= 5.6 cm   
Left Ventricle - Ejection Fraction:   55%   >= 55%   
Aorta - Sinus Level:   3.4 cm   <= 3.6 cm   
Aorta - Ascending:   *4.2 cm   <= 3.4 cm   
Aortic Valve - Peak Velocity:   *4.1 m/sec   <= 2.0 m/sec   
Aortic Valve - Peak Gradient:   *68 mm Hg   < 20 mm Hg   
Aortic Valve - Mean Gradient:   41 mm Hg       
Aortic Valve - LVOT diam:   2.0 cm       
Aortic Valve - Valve Area:   *0.5 cm2   >= 3.0 cm2   
  
LEFT ATRIUM: Dilated LA. No spontaneous echo contrast or 
thrombus in the ___ or the RA/RAA. 
RIGHT ATRIUM/INTERATRIAL SEPTUM: Normal RA size. No ASD by 2D or 
color Doppler. 
LEFT VENTRICLE: Mild symmetric LV hypertrophy with normal cavity 
size, and regional/global systolic function (biplane LVEF>55%). 
RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 
AORTA: Normal aortic diameter at the sinus level. Focal 
calcifications in aortic root. Mildly dilated ascending aorta. 
Simple atheroma in ascending aorta. 
AORTIC VALVE: Bicuspid aortic valve. Severely thickened/deformed 
aortic valve leaflets. Severe AS (area <1.0cm2). 
MITRAL VALVE: Normal mitral valve leaflets with trivial MR. 
___ VALVE: Normal tricuspid valve leaflets with trivial 
TR. 
PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflet. 
No PS. Physiologic PR. 
PERICARDIUM: No pericardial effusion. 

 PRE-BYPASS: The left atrium is dilated. No spontaneous echo 
contrast or thrombus is seen in the body of the left atrium/left 
atrial appendage or the body of the right atrium/right atrial 
appendage. No atrial septal defect is seen by 2D or color 
Doppler. Mild symmetric left ventricular hypertrophy with normal 
cavity size, and regional/global systolic function (biplane LVEF 
= XX %). Right ventricular chamber size and free wall motion are 
normal. The ascending aorta is mildly dilated. There are simple 
atheroma in the ascending aorta. The aortic valve is bicuspid. 
The aortic valve leaflets are severely thickened/deformed. There 
is severe aortic valve stenosis (valve area <1.0cm2). The mitral 
valve appears structurally normal with trivial mitral 
regurgitation. There is no pericardial effusion. Dr. ___ was 
notified in person of the results before surgical incision.

 POST-BYPASS: 
 Preserved biventricular systolic function. LVEF 55%
 Intact thorcic aorta.
 The bioprosthesis at then native aortic position is well seated 
and functioning well with residual gradients of mean 7mm of Hg,. 
No other new findings.   

Carotid Ultrasound 
Right ICA less than 40 % stenosis. 
Left ICA  less than 40 % stenosis. 

 
Brief Hospital Course:
Presented same day surgery and was taken to the operating room 
for aortic valve replacement.  She tolerated the procedure well 
please see operative report for further details.  Post 
operatively she was taken to the intensive care unit for 
management on neosynephrine.  That evening she was weaned from 
sedation, awoke neurologically intact and was extubated without 
complications.  She was weaned off neosynephrine and had burst 
of atrial fibrillation treated with IV Lopressor converted back 
to SR.  She later required neosynephrine off and on for blood 
pressure support which by afternoon of post operative day one 
she was able to be fully weaned off.  She was started on 
betablockers and diuretics.  Later that evening she remained 
clinically stable and was transitioned to the floor. Chest tubes 
and epicardial wires were removed per protocol.  On post 
operative day two she had brief burst of atrial fibrillation 
treated with betablockers and converted to sinus rhythm, 
additional treated with blood transfusion for post operative 
anemia.  She continued to progress and worked with physical 
therapy on strength and mobility.  She remained in sinus rhythm 
until early morning of post operative day four lasting less than 
1 minute and betablockers were adjusted with no further 
episodes.  She was ready for discharge home with services on 
post operative five.  

 
Medications on Admission:
Amiloride 5 mg tablet twice daily
Aspirin 81 mg tablet daily
Ocuvite capsule daily
Pravastatin 80 mg tablet once daily
Tylenol Extra Strength 500 mg tablet ___ tablets Q6H prn pain
Vitamin D3 1,000 unit capsule, 2 capsules daily
Zyrtec daily prn seasonal allergies
 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
4. Pravastatin 80 mg PO QPM 
5. Ranitidine 150 mg PO DAILY Duration: 1 Month 
RX *ranitidine HCl [Acid Reducer (ranitidine)] 150 mg 1 
tablet(s) by mouth once a day Disp #*30 Tablet Refills:*0
6. Sodium Chloride Nasal ___ SPRY NU QID:PRN dry nose 
7. Metoprolol Tartrate 50 mg PO BID 
RX *metoprolol tartrate 50 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*1
8. Acetaminophen 1000 mg PO Q6H:PRN pain 
9. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob/wheezing  
10. Amiloride HCl 5 mg PO Q12H 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Aortic Stenosis s/p Aortic valve replacement 
Post operative Atrial Fibrillation 
Anemia acute blood loss 

Secondary Diagnosis
Breast Cancer status post Lumpectomy, Chemotherapy and Radiation
Colon Polyps
Hyperlipidemia
Hypertension
Irritable Bowel Syndrome
Osteoarthritis
Dental implants

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with acetaminophen 
Sternal Incision - healing well, no erythema or drainage
Edema trace 

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
 
Followup Instructions:
___